US07495007B2
Preparation of intermediate 2-(4-fluoro-2-formyl-phenoxy)-2-methyl-propionic acid ethyl ester
5-Fluoro-2-hydroxy-benzaldehyde (14 g, 100 mmol), 2-bromo-2-methyl-propionic acid ethyl ester (19.5 g, 100 mmol), K2CO3 (27 g, 196 mmol) and KI (0.97 g, 5.8 mmol) were mixed in DMF (150 mL). Then the reaction mixture was heated at 110° C. for 3 h. The mixture was filtered and the filtrate was concentrated. The residue was dissolved in ethyl acetate and washed with aqueous 1N NaOH. Then the organic layer was separated, dried over Na2SO4 and concentrated to give title compound (9 g).

reactant | 5-Fluoro-2-hydroxy-benzaldehyde | 100 mmol, 14 g | FC=1C=CC(=C(C=O)C1)O | C7H5FO2
reactant | 2-bromo-2-methyl-propionic acid ethyl ester | 100 mmol, 19.5 g | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
reactant | K2CO3 | 196 mmol, 27 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 2-(4-fluoro-2-formyl-phenoxy)-2-methyl-propionic acid ethyl ester | 9 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)F)C=O)=O | C13H15FO4
